US08247403B2
2,3,4,5-tetrahydro-1,4-benzoxazepine-9-carboxylic acid hydrochloride
4-(tert-Butoxycarbonyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine-9-carboxylic acid (110 mg, 0.375 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (2 ml) were stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (72.0 mg, 83.6%) as a solid.

reactant | 4-(tert-Butoxycarbonyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine-9-carboxylic acid | 0.375 mmol, 110 mg | C(C)(C)(C)OC(=O)N1CCOC2=C(C1)C=CC=C2C(=O)O | C15H19NO5
reactant | hydrogen chloride-ethyl acetate | 4N, 2 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2,3,4,5-tetrahydro-1,4-benzoxazepine-9-carboxylic acid hydrochloride | 72.0 mg, 83.6% | Cl.O1CCNCC2=C1C(=CC=C2)C(=O)O | InChI=1S/C10H11NO3.ClH/c12-10(13)8-3-1-2-7-6-11-4-5-14-9(7)8;/h1-3,11H,4-6H2,(H,12,13);1H
